US04248889
Ethyl 3,5-dihydroxy-7-(1-naphthyl)heptanoate (Compound No. 3)
4.0 g (0.013 mole) of ethyl 5-hydroxy-7-(1-naphthyl)3-oxoheptanoate, prepared as described in step (a) above, dissolved in a small quanity of anhydrous ethanol were added dropwise to 0.57 g (0.015 mole) of sodium borohydride in 20 ml of absolute ethanol, with ice-cooling and stirring. When the addition was complete, cooling was immediately stopped and the mixture was allowed to warm to room temperature and was stirred for 30 minutes. After adding 200 ml of water, the mixture was acidified by the addition of sulphuric acid, saturated with sodium chloride and extracted three times, each with 50 ml of ethyl acetate. The combined extracts were washed with saturated aqueous sodium chloride and dried over anhydrous sodium sulphate. The solvent was then evaporated off under reduced pressure and the resulting residue was adsorbed on a silica gel column chromatograph. The fractions eluted with a 9:1 by volume mixture of benzene and ethyl acetate were concentrated to dryness to give 2.4 g (yield 23%) of the desired Compound No. 3 in the form of a colourless oil.

reactant | ethyl 5-hydroxy-7-(1-naphthyl)3-oxoheptanoate | 0.013 mole, 4.0 g | OC(CC(CC(=O)OCC)=O)CCC1=CC=CC2=CC=CC=C12 | C19H22O4
reactant | sodium borohydride | 0.015 mole, 0.57 g | [BH4-].[Na+]
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | Ethyl 3,5-dihydroxy-7-(1-naphthyl)heptanoate | 2.4 g, yield 23% | OC(CC(=O)OCC)CC(CCC1=CC=CC2=CC=CC=C12)O | C19H24O4
